US05258388
a) Synthesis of Isopropyl Hydrogen Phenylmalonate
Phenylmalonic acid (13.5 g, 0.07 mol) in dry ether (40 mL) was treated with thionyl chloride (8.92 g, 5.4 mL, 0.07 mol) and one drop of N,N-dimethylformamide. The mixture was heated at 40°-50° C. for 3 hours. The clear solution was evaporated under reduced pressure to remove any residual thionyl chloride. The oily residue was redissolved in dry ether (40 mL), and the solution was treated with isopropyl alcohol (0.075 mol, 5.76 mL), refluxed for 2 hours and worked up as before to give the titled compound.

reactant | Phenylmalonic acid | 0.07 mol, 13.5 g | C1(=CC=CC=C1)C(C(=O)O)C(=O)O | C9H8O4
reactant | thionyl chloride | 0.07 mol, 5.4 mL, 8.92 g | S(=O)(Cl)Cl | Cl2OS
reactant | isopropyl alcohol | 0.075 mol, 5.76 mL | C(C)(C)O | C3H8O
solvent | ether | 40 mL | CCOCC | C4H10O
catalyst | N,N-dimethylformamide | one drop | CN(C=O)C | C3H7NO
product | Isopropyl Hydrogen Phenylmalonate | Yield=60% | C1(=CC=CC=C1)C(C(=O)OC(C)C)C(=O)O | C12H14O4
